2187-12-26 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI and respiratory distress.
   24 Hour Events:
   Patient remained on a heparing gtt, asa, and plavix while awaiting
   cath.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-26**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 79 (72 - 89) bpm
   BP: 157/52(77) {131/40(64) - 160/56(80)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                    457 mL
                                                                    114 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                     57 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    382 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bibasilar, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, city, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   203 K/uL
   10.5 g/dL
   136 mg/dL
   5.2 mg/dL
   33 mEq/L
   5.6 mEq/L
   48 mg/dL
   94 mEq/L
   137 mEq/L
   32.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
   WBC
   5.8
   6.7
   Hct
   32.6
   32.8
   Plt
   197
   203
   Cr
   5.0
   5.2
   TropT
   1.06
   Glucose
   133
   136
   Other labs: PT / PTT / INR:14.1/53.7/1.2, CK / CKMB /
   Troponin-T:21//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath.  During the
   OSH course, patient was found to have NSTEMI with positive biomarkers
   and ECG with ST depressions in inferolateral leads.
   - cont asa, statin, plavix, b-blocker
   - cont heparin gtt for now
   - NPO after midnight for cardiac cath in AM to evaluate coronaries and
   potentially intervene on any culprit lesions
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of NSTEMI.
   - cont b-blocker
   - dialyzed today for volume; may consider further dialysis if CXR with
   signifcant pulm edema. has some bibasilar crackles but not overt CHF
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix
   - currenlty on heparin gtt for NSTEMI
   - will need to discuss with cardiologist why patient is not on
   anticoagulation
   # Respiratory Distress: Initially required 6L O2 with hypoxia and
   tachypnea.  Possible causes include pulm edema [**2-24**] NSTEMI, PNA
   (recently treated with cipro), PE.  Patient on 2-3L O2 at home,
   currently on same amount
   - CXR
   - hold off on abx for now; no leukocytosis, no fever
   - on heparin gtt; unlikely PE since currently improved; though still on
   differential
   # ESRD on HD: followed by renal.  HD today prior to transfer
   - d/w renal team in AM for further recs
   - lytes, replete PRN
   - cont nephrocaps and sevelamer
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]
   FEN: diabetic/low Na diet; NPO after midnight
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now
 IMPAIRED SKIN INTEGRITY
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-25**] 08:16 PM
   22 Gauge - [**2187-12-25**] 08:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-26 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI and respiratory distress.
   24 Hour Events:
   Patient remained on a heparin gtt, ASA, and plavix while awaiting cath
   overnight.  Was anxious overnight.  This am he denied chest pain, SOB,
   or dizziness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-26**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 79 (72 - 89) bpm
   BP: 157/52(77) {131/40(64) - 160/56(80)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                    457 mL
                                                                    114 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                     57 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    382 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   10.5 g/dL
   136 mg/dL
   5.2 mg/dL
   33 mEq/L
   5.6 mEq/L
   48 mg/dL
   94 mEq/L
   137 mEq/L
   32.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
   WBC
   5.8
   6.7
   Hct
   32.6
   32.8
   Plt
   197
   203
   Cr
   5.0
   5.2
   TropT
   1.06
   Glucose
   133
   136
   Other labs: PT / PTT / INR:14.1/53.7/1.2, CK / CKMB /
   Troponin-T:21//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath.  During the
   OSH course, patient was found to have NSTEMI with positive biomarkers
   and ECG with ST depressions in inferolateral leads.
   - Patient will have cath today given his recent NSTEMI to identify and
   intervene on any new lesions which could have caused the NSTEMI
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of NSTEMI.  His CXR this am did not appear to
   have significant pulmonary congestion.
   - Continue b-blocker
   - Given his renal failure will hold his digoxin.
   - Dialyzed yesterday for volume; will continue fluid removal per HD
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily; started nifedipine 90 mg daily and
   diltiazem 30 mg qid.
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix
   - Currently on heparin gtt for NSTEMI
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - Will start diltiazem 30 mg qid.
   # ESRD on HD: followed by renal.  HD today prior to transfer
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-25**] 08:16 PM
   22 Gauge - [**2187-12-25**] 08:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-27 05:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt schedule for cath today.
   Will likely have HD s/p cath.  Pt remained in CCU as no bed available.
   Lisinopril was increased to 40mg PO BID
   Nefedipine changed to Diltiazem in the morning, but in the evening HR
   was in the 50s, Diltiazem was thus stopped.  Toprol XL dose (100mg) was
   held in the evening as HR was trending down to the 40-50s while
   sleeping.  Since that time, HR has recovered to 60s.  Digoxin was
   discontinued.
   Pt. c/o of LE pain b/l that is chronic.  He denies CP, SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-27**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 60 (48 - 80) bpm
   BP: 141/39(64) {113/37(55) - 166/68(90)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
    Tele:
   40s
 50s O/N, at daytime 60-70s.  Several 2sec pauses.  Asx.
   Total In:
                                                                    900 mL
                                                                     91 mL
   PO:
                                                                    280 mL
                   TF:
   IVF:
                                                                    420 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                     65 mL
                                                                     10 mL
   Urine:
                                                                     65 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    835 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   LOS I/O are +1.3L.
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG, JVD is 12cm.
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3030**] w/ 2^nd toe amputated, site well healed, C/D/I,
   eschar at site.    Trace edema b/l.
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   173 K/uL
   9.7 g/dL
   175 mg/dL
   6.9 mg/dL
   31 mEq/L
   5.5 mEq/L
   65 mg/dL
   89
   132 mEq/L
   29.7.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
   WBC
   5.8
   6.7
   Hct
   32.6
   32.8
   Plt
   197
   203
   Cr
   5.0
   5.2
   TropT
   1.06
   Glucose
   133
   136
   Other labs: PT / PTT / INR:14.6/82.3/1.3 (yesterday) CK / CKMB /
   Troponin-T:21//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   PTT today 82.3, INR 1.5
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for [**Year (4 digits) **] and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath (LAD known
   occlusion, OM 70%, RCA 50% distally).  During the OSH course, patient
   was found to have [**Year (4 digits) **] with positive biomarkers and ECG with ST
   depressions in inferolateral leads.  Given [**Last Name (LF) **], [**First Name3 (LF) 124**] require
   reassessment
   - Patient will have cath
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of [**First Name3 (LF) **].  His CXR [**12-25**] did not appear to
   have significant pulmonary congestion, but pt w/ crackles on exam and
   elevated JVD on exam today.
   - Will continue fluid removal per HD
   - Continue b-blocker as prior this AM
   - Given his renal failure holding digoxin.
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily;
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix.  Has had episodes of bradycardia at night, now resolved.
   - Currently on heparin gtt for [**Month/Day (2) **]
   - Continue BBK
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - hold CCB as pt. in cath in AM and this is primarily driven by SBPs
   (see below)
   # HTN
 SBP control improved, mostly in 120s
 140s.  CCB and BBK held
   o/n.  Goal < 130/80.
   -          Continue BBK
   -          Consider restarting CCB is SBP > 140s consistently,
   monitoring for hypotension and bradycardia.
   # ESRD on HD: followed by renal.  HD today scheduled after cath.  Phos
   climbing to 5.6.
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer, consider increase in sevelamer.
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]. Has hx of peripheral neuropathy.
   -          Consider gabapentin QHS for neuropathy after dialysis.
   -          Continue acetaminophen
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now, may transfer to [**Hospital Unit Name 3031**] s/p Cath and HD.

2187-12-27 05:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   to cath today
   per renal, HD tomorrow
   called out to [**Hospital Ward Name 383**] 3 but no beds available
   Lisinopril increased to 40mg PO BID
   Nefedipine changed to Diltiazem in the morning, but in the evening HR
   was in the 50s, Diltiazem stopped.  Toprol XL dose (100mg) was held in
   the evening as HR was trending down to the 40s while sleeping
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-27**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 60 (48 - 80) bpm
   BP: 141/39(64) {113/37(55) - 166/68(90)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                    900 mL
                                                                     91 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                    420 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                     65 mL
                                                                     10 mL
   Urine:
                                                                     65 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    835 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   10.5 g/dL
   136 mg/dL
   5.2 mg/dL
   33 mEq/L
   5.6 mEq/L
   48 mg/dL
   94 mEq/L
   137 mEq/L
   32.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
   WBC
   5.8
   6.7
   Hct
   32.6
   32.8
   Plt
   197
   203
   Cr
   5.0
   5.2
   TropT
   1.06
   Glucose
   133
   136
   Other labs: PT / PTT / INR:14.6/82.3/1.3, CK / CKMB /
   Troponin-T:21//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath.  During the
   OSH course, patient was found to have NSTEMI with positive biomarkers
   and ECG with ST depressions in inferolateral leads.
   - Patient will have cath today given his recent NSTEMI to identify and
   intervene on any new lesions which could have caused the NSTEMI
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of NSTEMI.  His CXR this am did not appear to
   have significant pulmonary congestion.
   - Continue b-blocker
   - Given his renal failure will hold his digoxin.
   - Dialyzed yesterday for volume; will continue fluid removal per HD
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily; started nifedipine 90 mg daily and
   diltiazem 30 mg qid.
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix
   - Currently on heparin gtt for NSTEMI
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - Will start diltiazem 30 mg qid.
   # ESRD on HD: followed by renal.  HD today prior to transfer
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-12-25**] 08:16 PM
   22 Gauge - [**2187-12-26**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-28 04:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for [** **].
   24 Hour Events:
   Went to cath, RCA stented.  Completed HD.  Now off heparin gtt.  Had a
   guaiac positive stool, HCT 29 - 30, stable.  Likely to [**Hospital Unit Name 3031**] in AM after
   post cath check.  Has been in Afib all night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-28**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (60 - 92) bpm
   BP: 164/55(85) {135/39(64) - 173/64(89)} mmHg
   RR: 23 (5 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    518 mL
                  PO:
                  TF:
   IVF:
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,091 mL
                                                                      0 mL
   Urine:
                                                                     91 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,573 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/44/73.[**Numeric Identifier 252**]//6
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG, JVD is 12cm.
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3030**] w/ 2^nd toe amputated, site well healed, C/D/I,
   eschar at site.    Trace edema b/l.
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   9.7 g/dL
   173 mg/dL
   4.3 mg/dL
   31 mEq/L
   5.0 mEq/L
   28 mg/dL
   89 mEq/L
   132 mEq/L
   30.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
                             [**2187-12-27**]  04:32 AM
                             [**2187-12-27**]  01:35 PM
                             [**2187-12-27**]  10:58 PM
   WBC
   5.8
   6.7
   6.5
   Hct
   32.6
   32.8
   29.7
   30.2
   Plt
   197
   203
   217
   203
   Cr
   5.0
   5.2
   6.9
   4.3
   TropT
   1.06
   TCO2
   32
   Glucose
   133
   136
   173
   Other labs: PT / PTT / INR:16.7/82.3/1.5, CK / CKMB /
   Troponin-T:20//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for [**Year (4 digits) **] and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath (LAD known
   occlusion, OM 70%, RCA 50% distally).  During the OSH course, patient
   was found to have [**Year (4 digits) **] with positive biomarkers and ECG with ST
   depressions in inferolateral leads.  Given [**Last Name (LF) **], [**First Name3 (LF) 124**] require
   reassessment
   - Patient will have cath
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of [**First Name3 (LF) **].  His CXR [**12-25**] did not appear to
   have significant pulmonary congestion, but pt w/ crackles on exam and
   elevated JVD on exam today.
   - Will continue fluid removal per HD
   - Continue b-blocker as prior this AM
   - Given his renal failure holding digoxin.
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily;
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix.  Has had episodes of bradycardia at night, now resolved.
   - Currently on heparin gtt for [**Month/Day (2) **]
   - Continue BBK
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - hold CCB as pt. in cath in AM and this is primarily driven by SBPs
   (see below)
   # HTN
 SBP control improved, mostly in 120s
 140s.  CCB and BBK held
   o/n.  Goal < 130/80.
   -          Continue BBK
   -          Consider restarting CCB is SBP > 140s consistently,
   monitoring for hypotension and bradycardia.
   # ESRD on HD: followed by renal.  HD today scheduled after cath.  Phos
   climbing to 5.6.
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer, consider increase in sevelamer.
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]. Has hx of peripheral neuropathy.
   -          Consider gabapentin QHS for neuropathy after dialysis.
   -          Continue acetaminophen
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now, may transfer to [**Hospital Unit Name 3031**] s/p Cath and HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-12-26**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-28 04:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI.
   24 Hour Events:
   Went to cath, RCA stented.  Completed HD.  Now off heparin gtt.  Had a
   guaiac positive stool, HCT 29 - 30, stable.  Has been in Afib all
   night.
   This am the patient denies chest pain, or dizziness, but does admit to
   slight SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-28**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (60 - 92) bpm
   BP: 164/55(85) {135/39(64) - 173/64(89)} mmHg
   RR: 23 (5 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    518 mL
                  PO:
                  TF:
   IVF:
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,091 mL
                                                                      0 mL
   Urine:
                                                                     91 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,573 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/44/73.[**Numeric Identifier 252**]//6
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: irregularly irregular, no MRG, JVP is 10cm.
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3030**] w/ 2^nd toe amputated, site well healed, C/D/I,
   eschar at site.    Trace edema b/l.
   Musculoskeletal: Muscle wasting; the right femoral cath site has a 1 cm
   hematoma, is non-bleeding and has a small bruit present.  His femoral
   pusles are equal b/l and he has b/l and equal femoral bruits present.
   DP pulses 1+ b/l.
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   9.7 g/dL
   173 mg/dL
   4.3 mg/dL
   31 mEq/L
   5.0 mEq/L
   28 mg/dL
   89 mEq/L
   132 mEq/L
   30.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
                             [**2187-12-27**]  04:32 AM
                             [**2187-12-27**]  01:35 PM
                             [**2187-12-27**]  10:58 PM
   WBC
   5.8
   6.7
   6.5
   Hct
   32.6
   32.8
   29.7
   30.2
   Plt
   197
   203
   217
   203
   Cr
   5.0
   5.2
   6.9
   4.3
   TropT
   1.06
   TCO2
   32
   Glucose
   133
   136
   173
   Other labs: PT / PTT / INR:16.7/82.3/1.5, CK / CKMB /
   Troponin-T:20//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for NSTEMI and respiratory distress now s/p
   cath and sent to the RCA.
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath (LAD known
   occlusion, OM 70%, RCA 50% distally).  During the OSH course, patient
   was found to have NSTEMI with positive biomarkers and ECG with ST
   depressions in inferolateral leads.  Patient had a cath yesterday which
   showed a 80% mid RCA lesion for which a DES was placed; previous LAD
   occlusion was seen as well as a LCx lesion).
   - Continue ASA, statin, plavix, b-blocker
   - Plan is for another cath on Tuesday.
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of NSTEMI.  The patient had crackles on exam
   this am and trace peripheral edema.
   - Can consider obtaining another TTE to evaluate his function.
   - Will continue fluid removal per HD
   - Continue b-blocker; lisinopril per renal given ultrafiltration at
   dialysis.
   - Given his renal failure holding digoxin.
   # RHYTHM: afib, rate controlled.  Not on coumadin as outpatient, on ASA
   and plavix.
   - Continue metoprolol
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.  Continue heparin gtt for now.
   # HTN
 SBP control improved, mostly in 130s
 160s
   -  Continue metoprolol and isosorbide mononitrate.  Lisinopril held per
   renal given UF at dialysis.
   # ESRD on HD: followed by renal.
   - Appreciate renal involvement, will f/u recs
   - lytes, replete PRN
   - cont nephrocaps and sevelamer.
   # PVD: has had multiple amputations in the past.  Has pain on
   movement.  Followed by Dr. [**Last Name (STitle) 2762**]. Has hx of peripheral neuropathy.
   - Consider gabapentin QHS for neuropathy after dialysis.
   - Continue acetaminophen
   FEN: diabetic/low Na diet.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT heparin gtt
   -Pain management with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: Patient can be called out to the floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-12-26**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-28 04:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [** **]
   24 Hour Events:
   Went to cath, RCA stented.  Completed HD.  Now off heparin gtt.  Had a
   guiac positive stool, HCT 29 - 30, stable.  Likely to [**Hospital Unit Name 3031**] in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-28**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (60 - 92) bpm
   BP: 164/55(85) {135/39(64) - 173/64(89)} mmHg
   RR: 23 (5 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    518 mL
                  PO:
                  TF:
   IVF:
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,091 mL
                                                                      0 mL
   Urine:
                                                                     91 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,573 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/44/73.[**Numeric Identifier 252**]//6
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG, JVD is 12cm.
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3030**] w/ 2^nd toe amputated, site well healed, C/D/I,
   eschar at site.    Trace edema b/l.
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   9.7 g/dL
   173 mg/dL
   4.3 mg/dL
   31 mEq/L
   5.0 mEq/L
   28 mg/dL
   89 mEq/L
   132 mEq/L
   30.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
                             [**2187-12-27**]  04:32 AM
                             [**2187-12-27**]  01:35 PM
                             [**2187-12-27**]  10:58 PM
   WBC
   5.8
   6.7
   6.5
   Hct
   32.6
   32.8
   29.7
   30.2
   Plt
   197
   203
   217
   203
   Cr
   5.0
   5.2
   6.9
   4.3
   TropT
   1.06
   TCO2
   32
   Glucose
   133
   136
   173
   Other labs: PT / PTT / INR:16.7/82.3/1.5, CK / CKMB /
   Troponin-T:20//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for [**Year (4 digits) **] and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath (LAD known
   occlusion, OM 70%, RCA 50% distally).  During the OSH course, patient
   was found to have [**Year (4 digits) **] with positive biomarkers and ECG with ST
   depressions in inferolateral leads.  Given [**Last Name (LF) **], [**First Name3 (LF) 124**] require
   reassessment
   - Patient will have cath
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of [**First Name3 (LF) **].  His CXR [**12-25**] did not appear to
   have significant pulmonary congestion, but pt w/ crackles on exam and
   elevated JVD on exam today.
   - Will continue fluid removal per HD
   - Continue b-blocker as prior this AM
   - Given his renal failure holding digoxin.
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily;
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix.  Has had episodes of bradycardia at night, now resolved.
   - Currently on heparin gtt for [**Month/Day (2) **]
   - Continue BBK
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - hold CCB as pt. in cath in AM and this is primarily driven by SBPs
   (see below)
   # HTN
 SBP control improved, mostly in 120s
 140s.  CCB and BBK held
   o/n.  Goal < 130/80.
   -          Continue BBK
   -          Consider restarting CCB is SBP > 140s consistently,
   monitoring for hypotension and bradycardia.
   # ESRD on HD: followed by renal.  HD today scheduled after cath.  Phos
   climbing to 5.6.
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer, consider increase in sevelamer.
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]. Has hx of peripheral neuropathy.
   -          Consider gabapentin QHS for neuropathy after dialysis.
   -          Continue acetaminophen
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now, may transfer to [**Hospital Unit Name 3031**] s/p Cath and HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-12-26**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-28 04:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [** **]
   24 Hour Events:
   Went to cath, RCA stented.  Completed HD.  Now off heparin gtt.  Had a
   guiac positive stool, HCT 29 - 30, stable.  Likely to [**Hospital Unit Name 3031**] in AM after
   post cath check
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-28**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (60 - 92) bpm
   BP: 164/55(85) {135/39(64) - 173/64(89)} mmHg
   RR: 23 (5 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    518 mL
                  PO:
                  TF:
   IVF:
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,091 mL
                                                                      0 mL
   Urine:
                                                                     91 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,573 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/44/73.[**Numeric Identifier 252**]//6
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG, JVD is 12cm.
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3030**] w/ 2^nd toe amputated, site well healed, C/D/I,
   eschar at site.    Trace edema b/l.
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   9.7 g/dL
   173 mg/dL
   4.3 mg/dL
   31 mEq/L
   5.0 mEq/L
   28 mg/dL
   89 mEq/L
   132 mEq/L
   30.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
                             [**2187-12-27**]  04:32 AM
                             [**2187-12-27**]  01:35 PM
                             [**2187-12-27**]  10:58 PM
   WBC
   5.8
   6.7
   6.5
   Hct
   32.6
   32.8
   29.7
   30.2
   Plt
   197
   203
   217
   203
   Cr
   5.0
   5.2
   6.9
   4.3
   TropT
   1.06
   TCO2
   32
   Glucose
   133
   136
   173
   Other labs: PT / PTT / INR:16.7/82.3/1.5, CK / CKMB /
   Troponin-T:20//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for [**Year (4 digits) **] and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath (LAD known
   occlusion, OM 70%, RCA 50% distally).  During the OSH course, patient
   was found to have [**Year (4 digits) **] with positive biomarkers and ECG with ST
   depressions in inferolateral leads.  Given [**Last Name (LF) **], [**First Name3 (LF) 124**] require
   reassessment
   - Patient will have cath
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of [**First Name3 (LF) **].  His CXR [**12-25**] did not appear to
   have significant pulmonary congestion, but pt w/ crackles on exam and
   elevated JVD on exam today.
   - Will continue fluid removal per HD
   - Continue b-blocker as prior this AM
   - Given his renal failure holding digoxin.
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily;
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix.  Has had episodes of bradycardia at night, now resolved.
   - Currently on heparin gtt for [**Month/Day (2) **]
   - Continue BBK
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - hold CCB as pt. in cath in AM and this is primarily driven by SBPs
   (see below)
   # HTN
 SBP control improved, mostly in 120s
 140s.  CCB and BBK held
   o/n.  Goal < 130/80.
   -          Continue BBK
   -          Consider restarting CCB is SBP > 140s consistently,
   monitoring for hypotension and bradycardia.
   # ESRD on HD: followed by renal.  HD today scheduled after cath.  Phos
   climbing to 5.6.
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer, consider increase in sevelamer.
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]. Has hx of peripheral neuropathy.
   -          Consider gabapentin QHS for neuropathy after dialysis.
   -          Continue acetaminophen
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now, may transfer to [**Hospital Unit Name 3031**] s/p Cath and HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-12-26**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2187-12-28 04:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [** **]
   24 Hour Events:
   Went to cath, RCA stented.  Completed HD.  Now off heparin gtt.  Had a
   guiac positive stool, HCT 29 - 30, stable.  Likely to [**Hospital Unit Name 3031**] in AM after
   post cath check.  Has been in Afib all night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-28**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 77 (60 - 92) bpm
   BP: 164/55(85) {135/39(64) - 173/64(89)} mmHg
   RR: 23 (5 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    518 mL
                  PO:
                  TF:
   IVF:
                                                                    518 mL
   Blood products:
   Total out:
                                                                  4,091 mL
                                                                      0 mL
   Urine:
                                                                     91 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,573 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/44/73.[**Numeric Identifier 252**]//6
   Physical Examination
   General Appearance: elderly man lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: RRR, no MRG, JVD is 12cm.
   Respiratory / Chest: Patient breathing comfortably, crackles present at
   the bases b/l
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Extrem warm and well-perfused, his right foot is s/p
   amputation, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3030**] w/ 2^nd toe amputated, site well healed, C/D/I,
   eschar at site.    Trace edema b/l.
   Musculoskeletal: Muscle wasting
   Neurologic:  Patient alert and oriented to person and partially to
   place.
   Labs / Radiology
   203 K/uL
   9.7 g/dL
   173 mg/dL
   4.3 mg/dL
   31 mEq/L
   5.0 mEq/L
   28 mg/dL
   89 mEq/L
   132 mEq/L
   30.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2187-12-25**]  10:02 PM
                             [**2187-12-26**]  03:46 AM
                             [**2187-12-27**]  04:32 AM
                             [**2187-12-27**]  01:35 PM
                             [**2187-12-27**]  10:58 PM
   WBC
   5.8
   6.7
   6.5
   Hct
   32.6
   32.8
   29.7
   30.2
   Plt
   197
   203
   217
   203
   Cr
   5.0
   5.2
   6.9
   4.3
   TropT
   1.06
   TCO2
   32
   Glucose
   133
   136
   173
   Other labs: PT / PTT / INR:16.7/82.3/1.5, CK / CKMB /
   Troponin-T:20//1.06, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   75 yo male with ESRD on HD, CAD, PVD, DM2, HTN, Hyperlipidemia, PAF,
   who is transferred from OSH for [**Year (4 digits) **] and respiratory distress
   # CORONARIES: Patient has known 2V CAD by prior angiography; has
   diffuse disease that was not intervenable on prior cath (LAD known
   occlusion, OM 70%, RCA 50% distally).  During the OSH course, patient
   was found to have [**Year (4 digits) **] with positive biomarkers and ECG with ST
   depressions in inferolateral leads.  Given [**Last Name (LF) **], [**First Name3 (LF) 124**] require
   reassessment
   - Patient will have cath
   - Continue asa, statin, plavix, b-blocker
   - Continue his heparin gtt for now
   # PUMP:  history of CHF exacerbation with previously depressed EF but
   most recent ECHO with EF about 50%.  Possible that he had pulmonary
   congestion in the setting of [**First Name3 (LF) **].  His CXR [**12-25**] did not appear to
   have significant pulmonary congestion, but pt w/ crackles on exam and
   elevated JVD on exam today.
   - Will continue fluid removal per HD
   - Continue b-blocker as prior this AM
   - Given his renal failure holding digoxin.
   - For htn continue isosorbide mononitrate 60 mg daily, lisinopril 40 mg
   daily, and metoprolol 100 mg daily;
   # RHYTHM: afib, rate controlled.  not on coumadin as outpatient, on ASA
   and plavix.  Has had episodes of bradycardia at night, now resolved.
   - Currently on heparin gtt for [**Month/Day (2) **]
   - Continue BBK
   - will need to discuss with cardiologist why patient is not on
   anticoagulation.
   - hold CCB as pt. in cath in AM and this is primarily driven by SBPs
   (see below)
   # HTN
 SBP control improved, mostly in 120s
 140s.  CCB and BBK held
   o/n.  Goal < 130/80.
   -          Continue BBK
   -          Consider restarting CCB is SBP > 140s consistently,
   monitoring for hypotension and bradycardia.
   # ESRD on HD: followed by renal.  HD today scheduled after cath.  Phos
   climbing to 5.6.
   - Appreciate renal involvement
   - lytes, replete PRN
   - cont nephrocaps and sevelamer, consider increase in sevelamer.
   # PVD: has had multiple amputations in the past.  has pain on
   movement.  followed by Dr. [**Last Name (STitle) 2762**]. Has hx of peripheral neuropathy.
   -          Consider gabapentin QHS for neuropathy after dialysis.
   -          Continue acetaminophen
   FEN: diabetic/low Na diet; NPO for cath today
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now, may transfer to [**Hospital Unit Name 3031**] s/p Cath and HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2187-12-26**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: